US04008273
1-benzoyl-2-tert.-butylhydrazine was prepared in 71% yield by adding benzoyl chloride to a basic solution of t-butylhydrazine in water. The procedure was the same as that for preparing 1-pivaloyl-2-tert.-butylhydrazine in Example XIX A. The product has a melting range of 94°-95° C. and its infra-red spectrum was consistent with that of the proposed structure.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | t-butylhydrazine | C(C)(C)(C)NN | C4H12N2
reactant | 1-pivaloyl-2-tert.-butylhydrazine | C(C(C)(C)C)(=O)NNC(C)(C)C | C9H20N2O
solvent | water | O | H2O
product | 1-benzoyl-2-tert.-butylhydrazine | 71% yield | C(C1=CC=CC=C1)(=O)NNC(C)(C)C | C11H16N2O
